### PR TITLE
[Merged by Bors] - feat(SimpleGraph): sub-walks of minimal length are also minimal

### PR DESCRIPTION
**Pull request by vlad902**
Helper lemma to show that sub-walks of minimal length walks are also of minimal length.

---

- [x] depends on: #26655 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 1]
```diff
@@ -278,6 +278,20 @@ lemma dist_top_of_ne (h : u ≠ v) : (⊤ : SimpleGraph V).dist u v = 1 := by
 lemma dist_top [DecidableEq V] : (⊤ : SimpleGraph V).dist u v = (if u = v then 0 else 1) := by
   by_cases h : u = v <;> simp [h]
 
+lemma length_eq_dist_of_subwalk {u' v' : V} {p₁ : G.Walk u v} {p₂ : G.Walk u' v'}
+    (h₁ : p₁.length = G.dist u v) (h₂ : p₂.IsSubwalk p₁) : p₂.length = G.dist u' v' := by
+  by_contra hh
```
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean]:
```suggestion
  by_contra! hh
```

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 2]
```diff
@@ -278,6 +278,20 @@ lemma dist_top_of_ne (h : u ≠ v) : (⊤ : SimpleGraph V).dist u v = 1 := by
...
+  rcases show p₂.length < G.dist u' v' ∨ p₂.length > G.dist u' v' by omega
```
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean]:
```suggestion
  cases hh.lt_or_gt
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Small suggestion:

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean (hunk 2 above)
Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: Ah that's much cleaner, thanks!

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 3]
```diff
@@ -278,6 +278,20 @@ lemma dist_top_of_ne (h : u ≠ v) : (⊤ : SimpleGraph V).dist u v = 1 := by
...
+  cases hh.lt_or_gt
+  · have := SimpleGraph.dist_le p₂
+    omega
+  · obtain ⟨ru, rv, h⟩ := h₂
+    obtain ⟨s, _⟩ := p₂.reachable.exists_path_of_dist
+    let r := ru.append s |>.append rv
+    have : p₁.length = ru.length + p₂.length + rv.length := by simp [h]
+    have : r.length = ru.length + s.length + rv.length := by simp [r]
+    have := SimpleGraph.dist_le r
+    omega
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean]:
```suggestion
  refine (dist_le _).eq_of_not_lt' fun hh ↦ ?_
  obtain ⟨ru, rv, h⟩ := h₂
  obtain ⟨s, _⟩ := p₂.reachable.exists_path_of_dist
  let r := ru.append s |>.append rv
  have : p₁.length = ru.length + p₂.length + rv.length := by simp [h]
  have : r.length = ru.length + s.length + rv.length := by simp [r]
  have := dist_le r
  omega
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
